US04296114
2-[2-(N,N-diethylamino)ethylamino]-3,4-dihydro-4-(4-methylphenyl)-3-oxopyrido[2,3-b]pyrazine
Preparation as in Example 39 but using 2-chloro-3,4-dihydro-4-(4-methylphenyl)-3-oxopyrido[2,3-b]pyrazine and N,N-diethylethylene diamine in refluxing ethanol gave the title compound mp 131°-132° C.

reactant | 2-chloro-3,4-dihydro-4-(4-methylphenyl)-3-oxopyrido[2,3-b]pyrazine | ClC1=NC2=C(N(C1=O)C1=CC=C(C=C1)C)N=CC=C2 | C14H10ClN3O
reactant | N,N-diethylethylene diamine | C(C)N(CCN)CC | C6H16N2
solvent | ethanol | C(C)O | C2H6O
product | 2-[2-(N,N-diethylamino)ethylamino]-3,4-dihydro-4-(4-methylphenyl)-3-oxopyrido[2,3-b]pyrazine | C(C)N(CC)CCNC1=NC2=C(N(C1=O)C1=CC=C(C=C1)C)N=CC=C2 | C20H25N5O
